US04160837
4.0 g of 3,4-epoxy-1-(β,β,β-trichloroethoxycarbonyl)-pyrrolidine are dissolved in 15 ml of dioxane, and the solution is treated with 50 ml of 6 N hydrochloric acid. The slightly exothermic reaction is kept at room temperature by means of a water bath, and the reaction mixture is stirred for 15 hours, then diluted with water and extracted 3 times with 100 ml of methylene chloride. The organic phase is washed with 0.1 N sodium hydroxide solution and then with aqueous sodium chloride solution, dried over sodium sulphate and then evaporated to dryness, first under a water pump vacuum and then under a high vacuum, 3-hydroxy-4-chloro-1-(β,β,β-trichloroethoxycarbonyl)-pyrrolidine being obtained as a slightly yellow oil.

reactant | 3,4-epoxy-1-(β,β,β-trichloroethoxycarbonyl)-pyrrolidine | 4.0 g | O1C2CN(CC21)C(=O)OCC(Cl)(Cl)Cl | C7H8Cl3NO3
reactant | hydrochloric acid | 6 N, 50 ml | Cl | ClH
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3-hydroxy-4-chloro-1-(β,β,β-trichloroethoxycarbonyl)-pyrrolidine | OC1CN(CC1Cl)C(=O)OCC(Cl)(Cl)Cl | C7H9Cl4NO3
